US07259266B2
Step 1. Preparation of ethyl 8-chloro-6-ethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of 500 mg (1.16 mmol) ethyl 8-chloro-6-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate in 3 mL of anhydrous DMF was added 0.481 g (3.48 mmol, 3.0 eq.) of potassium carbonate, 0.134 g (0.116 mmol, 0.1 eq.) of tetrakis(triphenylphosphine)-palladium(0) and 1.74 mL (1.74 mmol, 1.5 eq.) of 1M triethylborane in THF. The vessel was heated to 110° C. for 5 hours under a nitrogen atmosphere. After cooling to room temperature, the mixture was treated with water and extracted with ethyl acetate. The organic layer was washed 4 times with water and 2 times with brine, dried over sodium sulfate, filtered and concd in vacuo. The product was carried to the next step without further purification.

reactant | ethyl 8-chloro-6-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.16 mmol, 500 mg | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)I | C13H9ClF3IO3
reactant | potassium carbonate | 3.48 mmol, 0.481 g, 3.0 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | triethylborane | 1.74 mmol, 1M, 1.74 mL, 1.5 eq. | C(C)B(CC)CC | C6H15B
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.116 mmol, 0.134 g, 0.1 eq. | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl 8-chloro-6-ethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)CC | C15H14ClF3O3
